US09238656B2
(1S,2S,3R,4R)-3-[6-Bromo-2-(3-chloro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXLII)
In a similar fashion to Compound CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (86.35 mg, 0.2553 mmol), 3-Chlorobenzaldehyde (39.5 mg, 0.281 mmol) and Ammonium acetate (39.4 mg, 0.511 mmol) were reacted to produce 62.33 mg (53%) of the title compound. (300 MHz, DMSO-d6) 3.42 (s, 1H), 8.18 s, 1H), 8.09 (d, J=8 Hz, 1H), 8.05 (s, 1H), 7.76 (s, 1H), 7.62-7.53 (m, 2H), 7.27-7.22 (m, 2H), 6.38 (m, 2H), 5.19 (t, J=17 Hz, 9 Hz, 1H), 2.90 (s, 1H), 2.79 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.25 (d, J=8 Hz, 1H), 1.40 (d, J=8 Hz, 1H). MS=460 (M+H), HPLC: 2.75 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.2553 mmol, 86.35 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 3-Chlorobenzaldehyde | 0.281 mmol, 39.5 mg | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | Ammonium acetate | 0.511 mmol, 39.4 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(3-chloro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 62.33 mg, 53% | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC(=CC=C2)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H17BrClN5O
